US04304770
Benzhydryl 7-(2-phenylacetamido)-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate-1-oxide (6.9 g.) and phosphorus trichloride (2.7 g.) were reacted according to a similar manner to that of Preparation 30 (3) to give benzhydryl 7-(2-phenylacetamido)-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate (6.1 g.).

reactant | Benzhydryl 7-(2-phenylacetamido)-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate-1-oxide | 6.9 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)COC(COC2=CC=C(C=C2)OC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C38H34N2O9S
reactant | phosphorus trichloride | 2.7 g | P(Cl)(Cl)Cl | Cl3P
product | benzhydryl 7-(2-phenylacetamido)-3-[2-(4-methoxyphenoxy)acetoxymethyl]-3-cephem-4-carboxylate | 6.1 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(COC2=CC=C(C=C2)OC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C38H34N2O8S
